US05268377
A mixture of methyl 2-n-butyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate (0.81 g), dicyclohexyl-carbodiimide (0.26 g), 1-hydroxybenzotriazole (0.17 g), cyanoacetic acid (0.11 g) and acetonitrile (10 ml) is stirred at room temperature overnight. After the reaction is completed, ethyl acetate is added to the reaction mixture, and the mixture is waehed with aqueous sodium hydrogen carbonate solution, dried, and the solvent is distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography (solvent; ethyl acetate) to give methyl 2-n-butyl-5-cyanoacetyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate (0.83 g) as foam.

reactant | methyl 2-n-butyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate | 0.81 g | C(CCC)C=1N(C2=C(CNC(C2)C(=O)OC)N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N7O2
reactant | dicyclohexyl-carbodiimide | 0.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyanoacetic acid | 0.11 g | C(#N)CC(=O)O | C3H3NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-n-butyl-5-cyanoacetyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate | 0.83 g | C(CCC)C=1N(C2=C(CN(C(C2)C(=O)OC)C(CC#N)=O)N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H44N8O3
